* Edge-triggered CD4017 (LTspice-compatible)

.subckt CD4017B Q5 Q1 Q0 Q2 Q6 Q7 Q3 VGND Q8 Q4 Q9 COUT CKEN CLK RST VCC

* Clock normalization
Bclk_norm nclk 0 V = if(V(CLK) > (V(VCC)/2), 1, 0)

* Previous clock (delay)
Bclk_prev nclk_d 0 V = delay(V(nclk), 1n)

* Rising edge detect
Bedge edge 0 V = if( V(nclk) > 0.5, if( V(nclk_d) < 0.5, 1, 0), 0 )

* State memory
Cstate state 0 1 IC=0

* Next-state logic
Bnext next 0 V =
+ if( V(RST) > (V(VCC)/2),
+     0,
+     if( V(edge) > 0.5,
+         if( V(CKEN) > (V(VCC)/2),
+             mod(V(state)+1, 10),
+             V(state)
+         ),
+         V(state)
+     )
+ )

* State enforcement
Gstate state 0 value = (V(next) - V(state))*1e6

* Outputs (robust comparisons)
Bq0  Q0  0 V = if(abs(V(state)-0)<0.1, V(VCC), 0)
Bq1  Q1  0 V = if(abs(V(state)-1)<0.1, V(VCC), 0)
Bq2  Q2  0 V = if(abs(V(state)-2)<0.1, V(VCC), 0)
Bq3  Q3  0 V = if(abs(V(state)-3)<0.1, V(VCC), 0)
Bq4  Q4  0 V = if(abs(V(state)-4)<0.1, V(VCC), 0)
Bq5  Q5  0 V = if(abs(V(state)-5)<0.1, V(VCC), 0)
Bq6  Q6  0 V = if(abs(V(state)-6)<0.1, V(VCC), 0)
Bq7  Q7  0 V = if(abs(V(state)-7)<0.1, V(VCC), 0)
Bq8  Q8  0 V = if(abs(V(state)-8)<0.1, V(VCC), 0)
Bq9  Q9  0 V = if(abs(V(state)-9)<0.1, V(VCC), 0)

* Carry out
Bcout COUT 0 V = if(abs(V(state)-9)<0.1, V(VCC), 0)

.ends CD4017B
